US07282588B2
Preparation of N-phenyl-N′-{4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1-(tetrahydro-2-furanylmethyl)-1H-pyrazol-3-yl]phenyl}urea
A mixture of N-{4-[4-bromo-1-(tetrahydro-2-furanylmethyl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea (0.147 mmol), 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.162 mmol), N,N-dimethylformamide (1.5 mL), saturated aqueous sodium bicarbonate (0.44 mL) and tetrakis(triphenylphosphine)palladium(0) (0.007 mmol) in a sealed tube was stirred at 100° C. for 18 hrs. The solution was cooled to room temperature, filtered though Celite and concentrated in vacuo. The residue was dissolved in methanol (5 mL) and 6.0N aqueous sodium hydroxide (1 mL) and stirred at 70° C. for 6 h. The reaction mixture was concentrated in vacuo, dissolved in water (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried over magnesium sulfate and concentrated in vacuo. Purification of the residue by Gilson reverse phase HPLC afforded the title compound as a white solid (11%). ESMS [M+H]+: 479.4

reactant | N-{4-[4-bromo-1-(tetrahydro-2-furanylmethyl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea | 0.147 mmol | BrC=1C(=NN(C1)CC1OCCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C21H21BrN4O2
reactant | 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.162 mmol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2B2OC(C(O2)(C)C)(C)C | C19H21BN2O4S
reactant | sodium bicarbonate | 0.44 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.007 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-phenyl-N′-{4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1-(tetrahydro-2-furanylmethyl)-1H-pyrazol-3-yl]phenyl}urea | 11% | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC2OCCC2 | C28H26N6O2
